US06605744B2
To a solution of 4′-octylacetophenone (18′) (23.9 g) in acetic acid (100 ml) is added hydrogen bromide-acetic acid solution (25%, 34 ml) under ice-cooling, which is followed by dropwise addition of bromine (5.3 ml). The mixture is heated to 30° C. and stirred for 3 hr. The solvent is distilled away and the mixture is purified by silica gel column chromatography to give 2-bromo-4′-octylacetophenone as colorless crystals.

reactant | 4′-octylacetophenone | C(CCCCCCC)C1=CC=C(C=C1)C(C)=O | C16H24O
reactant | hydrogen bromide acetic acid | 34 ml | Br.C(C)(=O)O
reactant | bromine | 5.3 ml | BrBr | Br2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-4′-octylacetophenone | BrCC(=O)C1=CC=C(C=C1)CCCCCCCC | C16H23BrO
